US07425628B2
1 g of levofloxacin crude was put in suspension in 1.5 ml of DMSO. The mixture was heated to 108° C. until complete dissolution of the material. Then H2O (7.5 ml) was added over 10 minutes and the mixture was cooled to RT. The precipitate was filtrated under vacuum, washed with 1 ml of a mixture DMSO:H2O 1:5 and dried at 60° C. in an air-flow oven to give 840 mg (84%) of purified levofloxacin hemihydrate.

reactant | levofloxacin | 1 g | C[C@H]1COC2=C3C(=CC(=C2N4CCN(CC4)C)F)C(=O)C(=CN31)C(=O)O | C18H20FN3O4
reactant | H2O | 7.5 ml | O | H2O
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | levofloxacin hemihydrate | 840 mg, 84% | C[C@H]1COC2=C3N1C=C(C(=O)C3=CC(=C2N4CCN(CC4)C)F)C(=O)O.C[C@H]1COC2=C3N1C=C(C(=O)C3=CC(=C2N4CCN(CC4)C)F)C(=O)O.O | InChI=1S/2C18H20FN3O4.H2O/c2*1-10-9-26-17-14-11(16(23)12(18(24)25)8-22(10)14)7-13(19)15(17)21-5-3-20(2)4-6-21;/h2*7-8,10H,3-6,9H2,1-2H3,(H,24,25);1H2/t2*10-;/m00./s1
